US05298652
The reaction of 2-(hydroxy-5-(tetradecyloxy)benzoic acid methyl ester with benzyl bromide under conditions described in Example 59 gave 2-(phenylmethoxy)-5-(tetradecyloxy)benzoic acid methyl ester (82% yield, mp 43°-46°).

reactant | hydroxy-5-(tetradecyloxy)benzoic acid methyl ester | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCCC)O)=O | C22H36O4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-(phenylmethoxy)-5-(tetradecyloxy)benzoic acid methyl ester | 82% yield | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCCC)OCC1=CC=CC=C1)=O | C29H42O4
